US07091220B2
[(5-Chloro-1H-indol-3-yl)-p-tolyl-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 5-chloro-1H-indole and (4-methyl-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 4-methyl-benzaldehyde and dimethylamine.

reactant | 5-chloro-1H-indole | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | (4-methyl-benzylidene)-dimethylammonium chloride | [Cl-].CC1=CC=C(C=[N+](C)C)C=C1
reactant | 4-methyl-benzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | dimethylamine | CNC | C2H7N
product | [(5-Chloro-1H-indol-3-yl)-p-tolyl-methyl]-dimethyl-amine | ClC=1C=C2C(=CNC2=CC1)C(C1=CC=C(C=C1)C)N(C)C | C18H19ClN2
